US09255093B2
To a stirred mixture of 2-formyl-5-methylphenyl acetate (12.8 g, 71.8 mmol), carbon tetrabromide (47.6 g, 144 mmol), and 150 mL of DCM at 0° C. (translucent clear/yellow solution) under nitrogen was added a solution of triphenylphosphine (75 g, 287 mmol) in 140 mL of DCM dropwise over 15 min. A clear orange solution results initially. After 1 hr a purplish suspension results. The reaction was stirred for 2 hr at RT. After 2 hr 100 mL of heptane was added. The mixture was filtered to remove solids and the collected filtrate was concentrated under reduced pressure to give a dark brown gum. This was dissolved in minimal DCM and filtered through a silica gel plug which was flushed with 70% Heptane/30% EtOAc. The combined washes from the silica plug were concentrated under reduced pressure to give a yellow oil, 2-(2,2-dibromovinyl)-5-methylphenyl acetate (16.7 g). 1H NMR (400 MHz, DMSO-d6) δ 2.28 (s, 3H), 2.31 (s, 3H), 7.01 (s, 1H), 7.14 (d, J=8.0 Hz, 1H), 7.48 (s, 1H), 7.54 (d, J=8.0 Hz, 1H).

reactant | 2-formyl-5-methylphenyl acetate | 71.8 mmol, 12.8 g | C(C)(=O)OC1=C(C=CC(=C1)C)C=O | C10H10O3
reactant | carbon tetrabromide | 144 mmol, 47.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 287 mmol, 75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | heptane | 100 mL | CCCCCCC | C7H16
solvent | DCM | 140 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dibromovinyl)-5-methylphenyl acetate | 16.7 g | C(C)(=O)OC1=C(C=CC(=C1)C)C=C(Br)Br | C11H10Br2O2
